US04604390
A mixture of 5 g of N,N-diethyl-9-methoxy-5-nitro-2H-[1]-benzopyrano[4,3,2-cd]indazole-2-ethanamine, and 0.940 g of 10% palladium on carbon, in 250 ml of tetrahydrofuran was stirred under hydrogen atmosphere for 18 hours, filtered, and the filtrate concentrated to give 5-amino-N,N-diethyl-9-methoxy-2H-[1]benzopyrano[4,3,2-cd]indazole-2-ethanamine.

reactant | N,N-diethyl-9-methoxy-5-nitro-2H-[1]-benzopyrano[4,3,2-cd]indazole-2-ethanamine | 5 g | C(C)N(CCN1N=C2C=3C(=C(C=CC13)[N+](=O)[O-])OC1=C2C=C(C=C1)OC)CC | C20H22N4O4
catalyst | palladium on carbon | 0.940 g | [Pd] | Pd
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 5-amino-N,N-diethyl-9-methoxy-2H-[1]benzopyrano[4,3,2-cd]indazole-2-ethanamine | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(O2)C=CC(=C1)OC | C20H24N4O2
